US06559173B1
5-Fluoro-3-[(5-furan-2-yl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one
The named compound is prepared by substituting E & Z-3-[(hydroxy)-methylene]-5-fluoro-1,3-dihydro-indol-2-one for E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one and 3-amino-5-(2-furyl)-pyrazole for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-5-fluoro-1,3-dihydro-indol-2-one (0.050 gms.) is reacted with 0.085 gms. of 3-amino-5-(2-furyl)-pyrazole by refluxing in tetrahydrofuran (1.5 mL).

reactant | Z-3-[(hydroxy)-methylene]-5-fluoro-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=C(C=C12)F)=O | C9H6FNO2
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 3-amino-5-(2-furyl)-pyrazole | NC1=NNC(=C1)C=1OC=CC1 | C7H7N3O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-5-fluoro-1,3-dihydro-indol-2-one | 0.050 gms | O\C=C\1/C(NC2=CC=C(C=C12)F)=O | C9H6FNO2
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 5-Fluoro-3-[(5-furan-2-yl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one | FC=1C=C2C(C(NC2=CC1)=O)=CNC1=NNC(=C1)C=1OC=CC1 | C16H11FN4O2
